US06077952
(j) 4-Methoxybenzyl (6R,7R)-3-[(2S,5R)-5-methoxy-carbonyltetrahydrofuran-2-yl]-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]ceph-3-em-4-carboxylate
A stirred solution of 2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetic acid (20.1 mg) and N,N-diisopropylethylamine (0.0176 ml) in dimethylformamide (0.3 ml) was cooled to -55 to -60° C. and methanesulphonyl chloride (0.0081 ml) was added. The mixture was stirred at the same temperature for 0.5 h and then a solution of 4-methoxybenzyl (6R,7R)-7-amino-3-[(2S,5R)-5-methoxy-carbonyltetrahydrofuran-2-yl]ceph-3-em-4-carboxylate (41 mg) in dimethylformamide (0.3 ml) was added followed by pyridine (0.0073 ml). The mixture was then stored at 0° C. for 1 h and then at room temperature for 0.5 h. The reaction mixture was partitioned between ethyl acetate and aqueous citric acid solution and the organic phase washed with water and brine. The solution was dried over magnesium sulphate and evaporated, and the title compound (31 mg) isolated by column chromatography of the residue (silica gel, ethyl acetate as eluent); νmax (CHCl3) 3496, 3397, 1784, 1733 and 1684 cm-1.

reactant | 2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetic acid | 20.1 mg | NC=1SC=C(N1)/C(/C(=O)O)=N/OC | C6H7N3O3S
reactant | N,N-diisopropylethylamine | 0.0176 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulphonyl chloride | 0.0081 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-methoxybenzyl (6R,7R)-7-amino-3-[(2S,5R)-5-methoxy-carbonyltetrahydrofuran-2-yl]ceph-3-em-4-carboxylate | 41 mg | N[C@H]1[C@@H]2N(C(=C(CS2)[C@H]2O[C@H](CC2=C=O)OC)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C21H22N2O7S
solvent | dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 0.0073 ml | N1=CC=CC=C1 | C5H5N
product | 4-Methoxybenzyl (6R,7R)-3-[(2S,5R)-5-methoxy-carbonyltetrahydrofuran-2-yl]-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]ceph-3-em-4-carboxylate | 31 mg | CO[C@H]1CC([C@H](O1)C=1CS[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)OC)C([C@H]2NC(\C(=N/OC)\C=2N=C(SC2)N)=O)=O)=C=O | C27H27N5O9S2
